US06668527B2
C. 2-tert-Butoxycarbonylamino-pent-4-ynoic acid methyl ester
Potassium carbonate (1.687 g, 12.2 mmol) was added to an anhydrous methanol (91.5 mL) solution of 2-tert-butoxycarbonylamino-4-oxo-butyric acid benzyl ester (1.875 g, 6.10 mmol) and the reaction stirred 10 minutes. (1-Diazo-2-oxo-propyl)-phosphonic acid dimethyl ester (1.407 g, 7.32 mmol) was added and the reaction was stirred at room temp temperature 1 hour. The reaction was poured into diethyl ether and washed 4 times with 5% sodium bicarbonate, dried over magnesium sulfate and concentrated (1.05 g, crude product mixture). The crude product was used directly in the next step. 1H NMR (400 MHz, CDCl3) δ5.39 -5.31 (m, 1H), 4.49-4.41 (m, 1H), 3.77 (s, 3H), 2.79-2.65 (m, 2H), 2.03 (s, 1H), 1.59 and 1.44 (2 singlets, rotamers, 3H).

reactant | Potassium carbonate | 12.2 mmol, 1.687 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 91.5 mL | CO | CH4O
reactant | 2-tert-butoxycarbonylamino-4-oxo-butyric acid benzyl ester | 6.10 mmol, 1.875 g | C(C1=CC=CC=C1)OC(C(CC=O)NC(=O)OC(C)(C)C)=O | C16H21NO5
reactant | (1-Diazo-2-oxo-propyl)-phosphonic acid dimethyl ester | 7.32 mmol, 1.407 g | COP(OC)(=O)C(C(C)=O)=[N+]=[N-] | C5H9N2O4P
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-tert-Butoxycarbonylamino-pent-4-ynoic acid methyl ester | COC(C(CC#C)NC(=O)OC(C)(C)C)=O | C11H17NO4
